US08372516B2
To a solution of diethyl 3-methacryloyloxypropylphosphonate (28.2 g; 0.107 moles) in CH2Cl2 (60 g) is added dropwise a solution of trimethylsilyl bromide (34.4 g; 0.225 moles) in CH2Cl2 (22 g) at room temperature. The mixture is refluxed for 5 hours. The solvent is evaporated under vacuum to give di(trimethylsilyl) 3-methacryloyloxypropylphosphonate as a clear, colorless liquid (37.9 g). 1H NMR (CDCl3, δ ppm) 0.01 (s, 9H, CH3—Si), 1.41-1.55 (m, 2H, CH2—P), 1.59-1.73 (m, 2H, CH2—CH2—P), 1.66 (d, 3H, CH3), 3.90 (t, 2H, CH2—O), 5.28 (s, 1H, CH═), 5.82 (s, 1H, CH═). 31P NMR (CDCl3, δ ppm) 13.6.

reactant | diethyl 3-methacryloyloxypropylphosphonate | 0.107 moles, 28.2 g | C(C(=C)C)(=O)OCCCP(OCC)(OCC)=O | C11H21O5P
reactant | trimethylsilyl bromide | 0.225 moles, 34.4 g | C[Si](C)(C)Br | C3H9BrSi
solvent | CH2Cl2 | 60 g | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 22 g | C(Cl)Cl | CH2Cl2
product | di(trimethylsilyl) 3-methacryloyloxypropylphosphonate | C(C(=C)C)(=O)OCCCP(O[Si](C)(C)C)(O[Si](C)(C)C)=O | C13H29O5PSi2
